US06645953B2
3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid (0.30 g) is dissolved in 10 ml of dry dichloromethane. After cooling to −15° C., 0.07 ml of N-methylmorpholine and 0.084 ml of isobutylchloroformate is added and the mixture is stirred at −15° C. for 20 minutes, whereupon 1.74 ml of a 2.0 M solution of N,N-dimethylamine in THF) is added. The mixture is stirred overnight and the temperature is slowly elevated to room temperature. After aqueous work-up and crystallization from methanol, 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N,N-dimethyl amide (0,231 g) is obtained. M.p. 143-145° C. 1H-NMR (CDCl3, 400 MHz)): δ=5.35 (1H, s); 3.20 (1H, m); 3.03 (3H, s); 2.95 (3H, s); 0.90 (9H, s); 0.05 (6H, m).

reactant | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid | 0.30 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
reactant | N-methylmorpholine | 0.07 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.084 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,N-dimethylamine | CNC | C2H7N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid-N,N-dimethyl amide | 0,231 g | CN(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O)C | C34H59NO2Si
